US07087579B2
To a solution of 4-(2-methylprop-1-en-1-yl)benzyl alcohol (0.60 g) and carbon tetrabromide (1.2 g) in dichloromethane (12 mL) was added triphenylphosphine (0.97 g) at 0° C., and the mixture was stirred at room temperature for 3.5 hours. To the reaction mixture was added water, and the mixture was extracted with hexane. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane) to give 4-(2-methylprop-1-en-1-yl)benzyl bromide. To a solution of methyl acetoacetate (0.44 mL) in tetrahydrofuran (17 mL) was added sodium hydride (60%, 0.18 g) at 0° C., and the mixture was stirred for 10 minutes. To the reaction mixture was added a solution of 4-(2-methylprop-1-en-1-yl)benzyl bromide in tetrahydrofuran (3 mL), and the mixture was heated under reflux for 3.5 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in toluene (8 mL). To the solution was added hydrazine monohydrate (0.54 mL), and the mixture was stirred at 80° C. for 30 minutes. The reaction mixture was cooled to 0° C., and the resulting precipitates were collected by filtration, washed with water and hexane, and dried under reduced pressure to give 5-methyl-4-{[4-(2-methylprop-1-en-1-yl)phenyl]methyl}-1,2-dihydro-3H-pyrazol-3-pyrazol-3-one (0.31 g).

reactant | 4-(2-methylprop-1-en-1-yl)benzyl alcohol | 0.60 g | CC(=CC1=CC=C(CO)C=C1)C | C11H14O
reactant | carbon tetrabromide | 1.2 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 4-(2-methylprop-1-en-1-yl)benzyl bromide | CC(=CC1=CC=C(CBr)C=C1)C | C11H13Br
